US05026401
2nd step: 2-Acetylamino-4-aminophenyl β-hydroxypropyl ether monohydrochloride
1.5 g of ammonium chloride and 37.5 g of powdered zinc are added to 70 ml of an aqueous-ethanolic solution (60 ml of C2H5OH/10 ml of H2O) and this mixture is preheated to the reflux temperature, with stirring. 0.048 mol (12.2 g) of 2-acetylamino-4-nitrophenyl β-hydroxypropyl ether is then added, the addition being adjusted so as to maintain the reflux without heating. When the addition has ended, the mixture is kept under reflux for 10 minutes and filtered at the boil onto a mixture of 5 ml of ethanol and 5.1 ml of 36% strength hydrochloric acid, cooled to -20° C. The expected product precipitates in the form of the monohydrochloride. It is filtered off, washed with a small amount of ice-cold ethanol and dried in vacuo at 50° C. It melts with decomposition at between 220° and 225° C.

reactant | ammonium chloride | 1.5 g | [Cl-].[NH4+]
reactant | 2-acetylamino-4-nitrophenyl β-hydroxypropyl ether | 0.048 mol, 12.2 g | OC(COC1=C(C=C(C=C1)[N+](=O)[O-])NC(C)=O)C | C11H14N2O5
catalyst | zinc | 37.5 g | [Zn] | Zn
product | 2-Acetylamino-4-aminophenyl β-hydroxypropyl ether monohydrochloride | Cl.OC(COC1=C(C=C(C=C1)N)NC(C)=O)C | InChI=1S/C11H16N2O3.ClH/c1-7(14)6-16-11-4-3-9(12)5-10(11)13-8(2)15;/h3-5,7,14H,6,12H2,1-2H3,(H,13,15);1H
